US07199239B2
Intermediate 23: Ethyl [4-({butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate
To a solution of N-butyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (73 mg, 0.25 mmol) in anhydrous acetonitrile (5 mL) was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (75 mg, 0.25 mmol) and N,N-diisopropylethylamine (43 μL, 0.25 mmol). The resulting solution was heated at reflux under nitrogen for 2 h and then cooled to room temperature. The solvent was removed in vacuo and the residue diluted with water (10 mL) and extracted with CH2Cl2 (30 mL). The organic extract was separated by hydrophobic frit and the solvent removed in vacuo. Purification by SPE (Silica, 5 g) eluting 99:1 cyclohexane:EtOAc afforded the title compound as a pale yellow oil (105 mg).

reactant | N-butyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.25 mmol, 73 mg | C(CCC)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H18F3N
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 0.25 mmol, 75 mg | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropylethylamine | 0.25 mmol, 43 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Ethyl [4-({butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 105 mg | C(CCC)N(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C29H32F3NO3
